US07855218B2
Description 12: 1,1-Dimethylethyl (2S,5R)-2-(aminocarbonyl)-5-{4-[(phenylmethyl)oxy]phenyl}-1-pyrrolidinecarboxylate (D12)
To a solution of (5R)-1-{[(1,1-dimethylethyl)oxy]carbonyl}-5-{4-[(phenylmethyl)oxy]phenyl}-L-proline (D11, 1.44 g, 3.62 mmol) in dry DMF (20 ml) were added DIPEA (1.26 ml, 7.24 mmol), then TBTU (1.23 g, 3.98 mmol) and after 20 minutes, 1,1,1,3,3,3-hexamethyldisilazane (1.15 ml, 5.43 mmol). The reaction mixture was stirred at room temperature for 2 h, then it was treated with aqueous 5% NaHCO3 solution (30 ml) and stirred for further 30 minutes. The resulting mixture was diluted with water and extracted with ethyl acetate. The organic phase was then washed twice with brine/ice, dried over Na2SO4 and evaporated to give a colourless oil. This crude material was purified by chromatography on silica gel eluting with cyclohexane/ethyl acetate (7:3 to 5:5) to afford the title compound (1.25 g, 87%); Rt (HPLC): 5.51 min; Rf (cyclohexane:ethyl acetate=1:1): 0.29. MS: (ES/+) m/z: 419 [M+Na+]; C23H28N2O4 requires 396.

reactant | (5R)-1-{[(1,1-dimethylethyl)oxy]carbonyl}-5-{4-[(phenylmethyl)oxy]phenyl}-L-proline | 3.62 mmol, 1.44 g | CC(C)(C)OC(=O)N1[C@H](C(=O)O)CC[C@@H]1C1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H27NO5
reactant | DIPEA | 7.24 mmol, 1.26 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 3.98 mmol, 1.23 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 5.43 mmol, 1.15 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | NaHCO3 | 30 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1,1-Dimethylethyl (2S,5R)-2-(aminocarbonyl)-5-{4-[(phenylmethyl)oxy]phenyl}-1-pyrrolidinecarboxylate | 1.25 g, 87% | NC(=O)[C@H]1N([C@H](CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H28N2O4
